US07943622B2
Step 2. Synthesis of N-(4′-methoxybiphenyl-4-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(4′-methoxybiphenyl-4-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (114.9 mg, 0.182 mmol) in MeOH (1 mL). After 2 h, the reaction mixture was concentrated under reduced pressure, and the material was purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired fractions were brought to pH 12 with 1 N NaOH in H2O and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. This gave 28.6 mg (38%) of the desired product as a white solid. LC-MS: RT=4.97 min, [M+H]+=419.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4′-methoxybiphenyl-4-ylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.182 mmol, 114.9 mg | COC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C29H34N4O5
solvent | MeOH | 1 mL | CO | CH4O
product | N-(4′-methoxybiphenyl-4-yl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide | COC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)N1C(CNCC1)COC=1C=NC=CC1 | C24H26N4O3
